US06538016B2
To a mixture of BOC-L-Valin (48 g), 4-(2-Amino-ethyl)-2-methbxy-phenol hydrochloride (45 g) and diethyl-isopropylamine (64.6 g) in dimethylformamide (900 ml) is added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (97.8 g) in one portion. The reaction mixture is stirred for 4 hours at room temperature. Water (1000 ml) is then added. The mixture is extracted with ethyl acetate (2×500 ml). The organic layers organic layers are washed with brine (2×400 ml), dried (MgSO4) and evaporated. The residue is purified by flash column chromatography on silica gel (ethyl acetate/hexane 1:2). (S)-{1-[2-(4-Hydroxy-3-methoxy-phenyl)-ethylcarbamoyl]-2-methyl-propyl}-carbamic acid tert.-butyl ester is obtained.

reactant | BOC-L-Valin | 48 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | diethyl-isopropylamine | 64.6 g | C(C)N(C(C)C)CC | C7H17N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 97.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Water | 1000 ml | O | H2O
reactant | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | (S)-{1-[2-(4-Hydroxy-3-methoxy-phenyl)-ethylcarbamoyl]-2-methyl-propyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NCCC1=CC(=C(C=C1)O)OC)=O)=O | C19H30N2O5
